US08633183B2
A-10) 2-Methyl-5-trimethylsilanylethynyl-pyridine
The title compound is synthesized according to general procedure GP2 starting from 2.0 g (11.6 mmol) 5-bromo-pyridin-2-ylamine and 2.3 mL (16.3 mmol) 1-trimethylsilyl-ethyne using 68 mg (0.36 mmol) CuI, 305 mg (1.2 mmol) triphenylphosphine, 213 mg (0.30 mmol) PdCl2(PPh3)2 and 18 mL (127 mmol) triethylamine in 18 mL dry THF. For the work-up the reaction mixture is diluted with ethyl acetate, the organic phase is extracted with water and brine. The product is purified by chromatography on silica gel using a hexane/ethyl acetate gradient. Yield: 1.5 g (68%).

reactant | 5-bromo-pyridin-2-ylamine | 11.6 mmol, 2.0 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | 1-trimethylsilyl-ethyne | 16.3 mmol, 2.3 mL, 68 mg | C[Si](C#C)(C)C | C5H10Si
reactant | triphenylphosphine | 1.2 mmol, 305 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 127 mmol, 18 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.30 mmol, 213 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Methyl-5-trimethylsilanylethynyl-pyridine | CC1=NC=C(C=C1)C#C[Si](C)(C)C | C11H15NSi
